US05516774
pyrrolo[1,2-a][1,4]diazepine
To a solution of i mmol of 9,10-dihydro-10-(4-nitrobenzoyl)-4H-furo[2,3-e]pyrrolo[1,2-a][1,4]-diazepine in 20 ml of ethyl alcohol is added 0.2 g of 10% Pd/C and 2.5 mmol of hydrazine followed by stirring and heating under reflux for 3 hours. The room temperature reaction mixture is filtered through diatomaceous earth and the filtrate concentrated in vacuo. The residue is dissolved in methylene chloride and passed through a thin pad of hydrous magnesium silicate. The filtrate is concentrated in vacuo to give the desired product which is purified by flash chromatography on silica gel to give the desired product as a solid.

reactant | 9,10-dihydro-10-(4-nitrobenzoyl)-4H-furo[2,3-e]pyrrolo[1,2-a][1,4]-diazepine | [N+](=O)([O-])C1=CC=C(C(=O)N2CC=3N(CC4=C2OC=C4)C=CC3)C=C1 | C17H13N3O4
reactant | hydrazine | 2.5 mmol | NN | H4N2
solvent | ethyl alcohol | 20 ml | C(C)O | C2H6O
catalyst | Pd/C | 0.2 g | [Pd] | Pd
product | pyrrolo[1,2-a][1,4]diazepine | C=1C=2N(CC=CN1)C=CC2 | C8H8N2
